US06969717B2
The intermediate, 5-hydroxy-2-methyl-7-azaindole, was prepared as follows. A. To a solution of 5-methoxy-7-azaindole (240 mg, 1.62 mmol) in THF (10 mL) was added a 60% suspension of sodium hydride in oil (71 mg, 1.78 mmol) at RT under argon. The mixture was stirred at RT for 5 minutes and phenylsulphonyl chloride (250 μL, 1.95 mmol) was added and the mixture was stirred for 16 h, quenched with saturated ammonium chloride (20 mL) and extracted with ethyl acetate (3×25 μL). The combined organic layers were washed with brine (50 mL), dried, filtered and concentrated. The residue was purified by flash chromatography (1% MeOH in dichloromethane+0.5% triethylamine) to afford N-phenylsulphonyl-5-methoxy-7-azaindole (325 mg, 70%) as a solid. 1H NMR (400 MHz, CDCl3) δ 8.12 (3H, m), 7.65 (1H, dd, J=3.8), 7.54 (1H, m), 7.45 (2H, m), 7.28 (1H, d, J=2.8 Hz), 6.51 (1H, d, J=3.8 Hz), 3.82 (3H, s). (M+H)+=289. B. A solution (2.7M) of n-butyllithium in hexanes (0.48 mL, 1.30 mmol) was added to a solution of N-phenylsulphonyl-5-methoxy-7-azaindole (220 mg, 0.76 mmol) in THF (7.0 mL) at −78° C. under argon. The resulting solution was stirred at −78° C. for 1 h and methyl iodide (120 μL, 1.91 mmol) was added. The resulting mixture was stirred at −78° C. for 2 h, quenched with saturated ammonium chloride (20 mL) and extracted with ethyl acetate (3×25 mL). The combined organic layers were washed with brine (50 mL), dried, filtered and concentrated. The residue was purified by flash chromatography (1% MeOH in dichloromethane+0.1% triethylamine) to afford (170 mg, 73%) of a (5:1) mixture of N-phenylsulphonyl-5-methoxy-2-methyl-7-azaindole, m/z 303 (M+H+), analytical HPLC retention time=1.83 min and N-tolylsulphonyl-5-methoxy-2-methyl-7-azaindole, m/z 317, retention time=1.97 min. C. To a solution of above mixture of compounds in (3:1) THF-methanol (4 mL) was added a 10% solution of sodium hydroxide in water (3 mL) at room temperature. The mixture was heated to 65° C. for 1 h, cooled to room temperature, neutralized to pH 7 with a saturated ammonium chloride solution and extracted with ethyl acetate (3×15 mL). The combined organic layers were washed with brine (50 mL), dried (Na2SO4), filtered and concentrated. The residue was purified by flash column chromatography on silica gel (1% MeOH in dichloromethane+0.1% triethylamine) to afford 5-methoxy-2-methyl-7-azaindole (35 mg, 66%). (M+H)+=163. D. The procedure described above for the preparation of hydroxyindole from methoxyindole in Example 1 was applied to 5-methoxy-2-methyl-7-azaindole (35 mg, 0.2 mmol) to afford 5-hydroxy-2-methyl-7-azaindole (32 mg, 100%) which was used directly without any further purification. LC/MS; (M+H)+=135.

reactant | 5-hydroxy-2-methyl-7-azaindole | OC=1C=C2C=C(NC2=NC1)C | C8H8N2O
reactant | 5-methoxy-7-azaindole | 1.62 mmol, 240 mg | COC=1C=C2C=CNC2=NC1 | C8H8N2O
reactant | sodium hydride | [H-].[Na+]
reactant | phenylsulphonyl chloride | 1.95 mmol, 250 μL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-phenylsulphonyl-5-methoxy-7-azaindole | 325 mg, 70% | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=CC(=CN=C12)OC | C14H12N2O3S
